US06048880
3-Acetyl-5-chloro-2,4-dimethylthiophene
To a stirred solution of 2-chloro-3,5-dimethylthiophene (0.9 g, 6.18 mmol) in petroleum ether (5 mL) was added acetyl chloride (0.9 mL, 12.4 mmol) and aluminum chloride (0.99 g, 7.42 mmol) at room temperature under nitrogen, and the mixture stirred for 1 day. The reaction mixture was poured into ice water (50 mL) and the whole was extracted with diethyl ether (70 mL×2). The combined organic layers were washed with brine, dried over MgSO4, and concentrated in vacuo. The residue was purified by flash chromatography eluting with hexane-ethyl acetate (20:1) to provide the title product (0.85 g, 73% yield).

reactant | 2-chloro-3,5-dimethylthiophene | 6.18 mmol, 0.9 g | ClC=1SC(=CC1C)C | C6H7ClS
reactant | acetyl chloride | 12.4 mmol, 0.9 mL | C(C)(=O)Cl | C2H3ClO
reactant | aluminum chloride | 7.42 mmol, 0.99 g | [Cl-].[Al+3].[Cl-].[Cl-]
product | 3-Acetyl-5-chloro-2,4-dimethylthiophene | 0.85 g, 73% yield | C(C)(=O)C1=C(SC(=C1C)Cl)C | C8H9ClOS
